US05714506
Step B: N-[1-(3,4-Dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(pyridin-3-yl)-ethylamine
A solution of N-[1-(3,4-dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(2-chloropyrid-5-yl)-ethylamine (100 mg, 0.26 mmol) in ethanol (7 mL) with 5N sodium hydroxide (0.1 mL, 0.5 mmol) is degassed with argon prior to addition of Ni(R) (100 mg). The mixture is hydrogenated at 40 Psi for overnight and then the catalyst is filtered through Celite and washed with a small amount of ethanol. Evaporation of the filtrate gives the title compound.

reactant | N-[1-(3,4-dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(2-chloropyrid-5-yl)-ethylamine | 0.26 mmol, 100 mg | COC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)NCC(C=1C=CC(=NC1)Cl)O | C23H25ClN2O3
reactant | sodium hydroxide | 0.5 mmol, 5N, 0.1 mL | [OH-].[Na+]
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
solvent | ethanol | 7 mL | C(C)O | C2H6O
catalyst | Ni | 100 mg | [Ni] | Ni
product | N-[1-(3,4-Dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(pyridin-3-yl)-ethylamine | COC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)NCC(C=1C=NC=CC1)O | C23H26N2O3
